US07429605B2
Preparation of 2-(3-Chloro-phenyl)-6-[3-methyl-4-(4-[1,2,3]triazol-1-yl-butyl)-phenoxymethyl]-pyridine
A solution of 97 mg (0.42 mmol) 3-methyl-4-(4-[1,2,3]triazol-1-yl-butyl)phenol in 4.0 ml N,N-dimethylformamide was treated at 0° C. with 17 mg (0.42 mmol) of 60% sodium hydride and stirred at 0° C. for 30 min. Then 100 mg (0.42 mmol) 2-Chloromethyl-6-(3-chloro-phenyl)-pyridine were added and stirred continued at r. t. over night. After addition of 8 ml water, the mixture was extracted with ethyl acetate tree times. The combined organic phases were dried (sodium sulphate) and evaporated. Chromatography on silica (eluent: ethyl acetate/n-heptane 2:1) gave 0.151 g (83%) the title compound as white powder.

reactant | 3-methyl-4-(4-[1,2,3]triazol-1-yl-butyl)phenol | 0.42 mmol, 97 mg | CC=1C=C(C=CC1CCCCN1N=NC=C1)O | C13H17N3O
reactant | sodium hydride | 0.42 mmol, 17 mg | [H-].[Na+]
reactant | 2-Chloromethyl-6-(3-chloro-phenyl)-pyridine | 0.42 mmol, 100 mg | ClCC1=NC(=CC=C1)C1=CC(=CC=C1)Cl | C12H9Cl2N
reactant | water | 8 ml | O | H2O
solvent | N,N-dimethylformamide | 4.0 ml | CN(C=O)C | C3H7NO
product | 2-(3-Chloro-phenyl)-6-[3-methyl-4-(4-[1,2,3]triazol-1-yl-butyl)-phenoxymethyl]-pyridine | 0.151 g, 83% | ClC=1C=C(C=CC1)C1=NC(=CC=C1)COC1=CC(=C(C=C1)CCCCN1N=NC=C1)C | C25H25ClN4O
